US04868177
1-(4-Phenyl-1-piperidinyl)-1,2,3,4-tetrahydro-9-acridinamine
9-Amino-1,2,3,4-tetrahydroacridin-1-ol (5.36 g) was refluxed for 48 hours in 300 ml of toluene that contained 4-phenylpiperidine (8.06 g) and p-toluenesulfonic acid monohydrate (9.5 g). At the end of this time the reaction mixture was concentrated and the residue purified by flash chromatography (5% Et3N/toluene) to give, after concentration of theproduct-containing fractions and recrystallization from EtOAc/pentane, 3.22g of analytically pure product, m.p. 189°-190°.

reactant | 9-Amino-1,2,3,4-tetrahydroacridin-1-ol | 5.36 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | 4-phenylpiperidine | 8.06 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | p-toluenesulfonic acid monohydrate | 9.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Phenyl-1-piperidinyl)-1,2,3,4-tetrahydro-9-acridinamine | C1(=CC=CC=C1)C1CCN(CC1)C1CCCC2=NC3=CC=CC=C3C(=C12)N | C24H27N3
